US04732912
A solution of 1-cyano-4-methoxybenzocyclobutene (7.5 g.; described in the Journal of the American Chemical Society, 1976, 98, 8185) and p-methoxystyrene (11.1 g.) in o-dichlorobenzene (40 ml.) was heated under reflux for 30 minutes under an atmosphere of argon and then evaporated to dryness, and the residue was purified by chromatography on a silica gel column using a 20:1 v/v mixture of toluene and ethyl acetate as eluant. A mixture of a solution of the residue (12.0 g.) in toluene (200 ml.), a solution of sodium hydroxide (20 g.) in water (200 ml.) and 40% w/v aqueous tetrabutylammonium hydroxide solution (1 ml.) was stirred vigorously under an atmosphere of argon at laboratory temperature for 12 hours and the layers were then separated. The aqueous layer was extracted twice with diethyl ether (100 ml. each time) and the combined organic solutions were washed with water, dried and evaporated to dryness. There was thus obtained as residue (1RS,2SR)-1-cyano-1,2,3,4-tetrahydro-2-p-methoxyphenylnaphthalene, m.p. 126°-131° C.

reactant | 1-cyano-4-methoxybenzocyclobutene | C(#N)C1CC=2C1=C(C=CC2)OC | C10H9NO
reactant | p-methoxystyrene | 11.1 g | COC1=CC=C(C=C)C=C1 | C9H10O
solvent | o-dichlorobenzene | 40 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | (1RS,2SR)-1-cyano-1,2,3,4-tetrahydro-2-p-methoxyphenylnaphthalene | C(#N)C1C(CCC2=CC=CC=C12)C1=CC=C(C=C1)OC | C18H17NO
